US04471119
(a) Ethyl 8-methoxycarbonyl-4-oxo-10-propyl-6-trichloroacetamido-4H-pyrano[3,2-g]quinoline-2-carboxylate
Trichloroacetyl isocyanate (1.18 ml, 10 mmol) was added to a solution of ethyl 6,9-dihydro-4,6-dioxo-8-methoxycarbonyl-10-propyl-4H-pyrano [3,2-g]quinoline-2-carboxylate (3.85 g, 10 mmol) in dichloromethane (20 ml) at room temperature. The solution was then agitated gently for 24 hours at room temperature and then the solvent removed by distillation in vacuo. Trituration of the resulting solid with ether gave the sub-title compound as yellow cubes, 4.25 g (80%), mp 167°-169° C.

reactant | Trichloroacetyl isocyanate | 10 mmol, 1.18 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | ethyl 6,9-dihydro-4,6-dioxo-8-methoxycarbonyl-10-propyl-4H-pyrano [3,2-g]quinoline-2-carboxylate | 10 mmol, 3.85 g | O=C1C=C(OC2=C1C=C1C(C=C(NC1=C2CCC)C(=O)OC)=O)C(=O)OCC | C20H19NO7
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Ethyl 8-methoxycarbonyl-4-oxo-10-propyl-6-trichloroacetamido-4H-pyrano[3,2-g]quinoline-2-carboxylate | COC(=O)C1=NC2=C(C3=C(C=C2C(=C1)NC(C(Cl)(Cl)Cl)=O)C(C=C(O3)C(=O)OCC)=O)CCC | C22H19Cl3N2O7
